US08071807B2
[3-(2-Formyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester was reduced to [3-(2-hydroxymethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester according to the procedure described in Example 21, Step 6 and then brominated as described in Example 21, Step 7 and then treated with 2,2,2-trifluoroethanethiol to give {3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-5-trifluoromethyl-phenyl}-acetic acid ethyl ester. The amine was reduced as described in Example 21, Step 9, and then treated with pivaloyl chloride as described in Example 21, Step 10 to provide {3-[4-(2,2-Dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-5-trifluoromethyl-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester as described in Example 21, Step 11 provided the acid.

reactant | [3-(2-Formyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)=O | C18H14F3NO6
reactant | [3-(2-hydroxymethyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CO)=O | C18H16F3NO6
reactant | 2,2,2-trifluoroethanethiol | FC(CS)(F)F | C2H3F3S
product | {3-[4-Nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-5-trifluoromethyl-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C20H17F6NO5S
